US07297794B2
A solution of 10.0 g (47.8 mmol) of 8-bromo-1-octanol, 10.41 g (120 mmol) of morpholine and tetrahydrofuran was heated to reflux for 3 hr. The cooled reaction mixture was treated with saturated aqueous sodium bicarbonate and extracted with ethyl acetate. The organic phase was washed with brine, dried over magnesium sulfate and concentrated to give 10.50 g of 4-(8-hydroxyoctyl)morpholine.

reactant | 8-bromo-1-octanol | 47.8 mmol, 10.0 g | BrCCCCCCCCO | C8H17BrO
reactant | morpholine | 120 mmol, 10.41 g | N1CCOCC1 | C4H9NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(8-hydroxyoctyl)morpholine | 10.50 g | OCCCCCCCCN1CCOCC1 | C12H25NO2
